US06576645B1
2-(2-Chlorophenyl-1-[4-(2-piperidinylethoxy)phenyl]-4-(tetrahydropyranyloxy)butan-1-one is prepared by PTC reaction according to the method described in the example 4d using 2-(2-chlorophenyl)-1-[4-(2-piperidinylethoxy)phenyl]ethanone (1.5 g, 4.2 mmol) and 2-tetrahydropyranyloxy-1-iodoethane (1.3 g, 5.1 mmol) as the starting materials. The product (1.6 g) is used for the following reaction step without further purification.

reactant | 2-(2-chlorophenyl)-1-[4-(2-piperidinylethoxy)phenyl]ethanone | 4.2 mmol, 1.5 g | ClC1=C(C=CC=C1)CC(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C21H24ClNO2
reactant | 2-tetrahydropyranyloxy-1-iodoethane | 5.1 mmol, 1.3 g | O1C(CCCC1)OCCI | C7H13IO2
product | 2-Chlorophenyl-1-[4-(2-piperidinylethoxy)phenyl]-4-(tetrahydropyranyloxy)butan-1-one | ClC1=C(C=CC=C1)C(C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)CCOC1OCCCC1 | C28H36ClNO4
